US09085540B2
A mixture of 5-chloro-3-{[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]amino}-6-(2-hydroxypropan-2-yl)pyrazine-2-carboxamide (700 mg), tert-butyl (3R)-3-aminopyrrolidine-1-carboxylate (1.05 mL), diisopropylethylamine (1.06 mL), and N-methylpyrrolidone (2.5 mL) was reacted in a microwave reaction device at 180° C. for 1 hour. To the reactant was added a mixed solution of saturated brine:water (1:1), followed by extraction with ethyl acetate. The organic phase was dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol=99:1-90:10, NH2 type: eluent; chloroform:methanol=99:1-95:5) to obtain tert-butyl (3R)-3-{[5-carbamoyl-6-{[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]amino}-3-(prop-1-en-2-yl)pyrazin-2-yl]amino}pyrrolidine-1-carboxylate (928 mg) as a yellow amorphous substance.

reactant | 5-chloro-3-{[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]amino}-6-(2-hydroxypropan-2-yl)pyrazine-2-carboxamide | 700 mg | ClC=1N=C(C(=NC1C(C)(C)O)C(=O)N)NC=1C=NN(C1)CCO | C13H17ClN6O3
reactant | tert-butyl (3R)-3-aminopyrrolidine-1-carboxylate | 1.05 mL | N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | diisopropylethylamine | 1.06 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | brine water | [Cl-].[Na+].O.O
solvent | N-methylpyrrolidone | 2.5 mL | CN1C(CCC1)=O | C5H9NO
product | tert-butyl (3R)-3-{[5-carbamoyl-6-{[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]amino}-3-(prop-1-en-2-yl)pyrazin-2-yl]amino}pyrrolidine-1-carboxylate | 928 mg | C(N)(=O)C=1N=C(C(=NC1NC=1C=NN(C1)CCO)N[C@H]1CN(CC1)C(=O)OC(C)(C)C)C(=C)C | C22H32N8O4
